US06248306B1
a) 1,4,7,10,13,16-Hexakis[benzyloxycarbonylglycyl]-1,4,7,10,13,16-hexaazacyclooctadecane
516 mg (2 mmol) of 1,4,7,10,13,16-hexaazacyclooctadecane (hexacyclene; Fluka) is azeotropically dehydrated with toluene. A solution of 3.14 g (15 mmol) of benzyloxycarbonyl-glycine (Fluka) in tetrahydrofuran (THF) as well as 3.71 g (15 mmol) of 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (EEDQ; Fluka) are added to the cooled solution of hexacyclene in toluene at room temperature and stirred overnight. After completion of the reaction, the product is precipitated by adding hexane, and the precipitate is chromatographed with dichloromethane/hexane/isopropanol (20:10:1) on silica gel.

reactant | 1,4,7,10,13,16-hexaazacyclooctadecane | 2 mmol, 516 mg | N1CCNCCNCCNCCNCCNCC1 | C12H30N6
reactant | benzyloxycarbonyl-glycine | 15 mmol, 3.14 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | 15 mmol, 3.71 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,4,7,10,13,16-Hexakis[benzyloxycarbonylglycyl]-1,4,7,10,13,16-hexaazacyclooctadecane | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CCN(CCN(CCN(CCN(CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)C(CNC(=O)OCC1=CC=CC=C1)=O)C(CNC(=O)OCC1=CC=CC=C1)=O)C(CNC(=O)OCC1=CC=CC=C1)=O)C(CNC(=O)OCC1=CC=CC=C1)=O | C72H84N12O18
